US07205306B2
5-Bromo-3-(5-bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone
Prepared in a similar fashion as described for Example 413 using 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone and 5-bromo-7-chloroindoline as the starting materials. mp 118° C.; 1H NMR (300 MHz, CDCl3): δ 7.31 (s, 1 H), 7.24 (s, 1 H), 7.13 (s, 1 H), 4.98–4.90 (m, 1 H), 4.32 (t, J=7.9 Hz, 2 H), 3.66 (dd, J=10.7, 5.9 Hz, 1 H), 3.55 (dd, J=10.6, 3.3 Hz, 1 H), 3.35 (s, 3 H), 3.13 (t, J=7.9 Hz, 2 H), 1.85–1.74 (m, 2 H), 0.93 (t, J=7.3 Hz, 3 H); HRMS (ESI) calcd for C17H19N3O2Br2Cl (M+H)+: 489.0543; Found m/z 489.9534.

reactant | 3,5-dibromo-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1C(N(C=C(N1)Br)[C@H](CC)COC)=O | C9H12Br2N2O2
reactant | 5-bromo-7-chloroindoline | BrC=1C=C2CCNC2=C(C1)Cl | C8H7BrClN
product | 5-Bromo-3-(5-bromo-7-chloro-2,3-dihydro-1H-indol-1-yl)-1-[(1R)-1-(methoxymethyl)propyl]-2(1H)-pyrazinone | BrC=1N=C(C(N(C1)[C@H](CC)COC)=O)N1CCC2=CC(=CC(=C12)Cl)Br | C17H18Br2ClN3O2
